US07605169B2
Preparation of (±)-(1S,3R,4R)—N—[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-4-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)cyclopentanecarboxamide
To a stirred solution of (±)-(1S,3R,4R)-3-(aminomethyl)-N-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-4-hydroxycyclopentanecarboxamide (0.43 g, 1.29 mmole) in dry CH2Cl2 (25 mL) and dry EtOH (10 mL) at RT was added 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde (0.25 g, 1.29 mmole). After 24 h, at RT was added NaBH(OAc)3 (0.41 g, 1.93 mmole). After 4 h, the reaction solution was concentrated under vacuum to a solid. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (0.12 g, 18%) as light yellow solid: 1H NMR (400 MHz, d8-dioxane), δ8.75 (s, 1H), 8.27 (d, J=9.0 Hz, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.15 (d, J=9.0 Hz, 1H), 7.02 (d, J=7.8 Hz, 1H), 4.35 (m, 1H), 4.10 (s, 3H), 3.78 (s, 2H), 3.49 (s, 2H), 3.36 (m, 1H), 2.81 (m, 1H), 2.73 (m, 1H), 2.20 (m, 3H), 2.04 (m, 1H), 1.87 (m, 1H). LC-MS (ES) m/e 513 (M+H)+.

reactant | (±)-(1S,3R,4R)-3-(aminomethyl)-N-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-4-hydroxycyclopentanecarboxamide | 1.29 mmole, 0.43 g | NC[C@H]1C[C@@H](C[C@H]1O)C(=O)NC1=C(C=NC2=CC=C(N=C12)OC)F | C16H19FN4O3
reactant | 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde | 1.29 mmole, 0.25 g | O=C1CSC2=C(N1)N=C(C=C2)C=O | C8H6N2O2S
reactant | NaBH(OAc)3 | 1.93 mmole, 0.41 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
product | (±)-(1S,3R,4R)—N—[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-4-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)cyclopentanecarboxamide | 0.12 g, 18% | FC=1C=NC2=CC=C(N=C2C1NC(=O)[C@@H]1C[C@H]([C@H](C1)CNCC=1C=CC=2SCC(NC2N1)=O)O)OC | C24H25FN6O4S
